US05246965
4-Cyanophenol (742 g, 6.23 mol) is dissolved in dimethyl sulfoxide (7.30 L) and to this solution is added powdered anhydrous potassium carbonate (883 g, 6.30 mol), potassium iodide (1.05 kg, 6.30 mol) and finally 1-(5-chloropentoxy)-2-methoxybenzene (1.44 kg, 6.29 mol). This suspension is heated at 80°-82° C. for 7 hours and the heating bath is then removed. After stirring overnight at room temperature, the mixture is poured onto cold water (29 L) and the product precipitates. This mixture is then extracted with ethyl acetate (3×20 L). The organic extracts are washed with potassium hydroxide solution (0.50N, 4×8 L), brine (2×10 L), dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to yield a yellow oil which crystallizes on standing. This is then dissolved in 2-propanol (5.6 L) with warming and the resulting solution is filtered gravimetrically, washing the funnel with 1.2 L of hot 2-propanol. The combined filtrate is cooled to 10° C. in an ice bath and the solid mass is broken up and filtered. The filter cake is washed with 2-propanol (2×800 mL), dried in vacuo to give 4-[5-(2-methoxyphenoxy)pentoxy]benzonitrile, m.p. 66°-68° C. which is >99.5% pure by glc analysis.

reactant | 4-Cyanophenol | 6.23 mol, 742 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | potassium carbonate | 6.30 mol, 883 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 6.30 mol, 1.05 kg | [I-].[K+]
reactant | 1-(5-chloropentoxy)-2-methoxybenzene | 6.29 mol, 1.44 kg | ClCCCCCOC1=C(C=CC=C1)OC | C12H17ClO2
solvent | dimethyl sulfoxide | 7.30 L | CS(=O)C | C2H6OS
product | 4-[5-(2-methoxyphenoxy)pentoxy]benzonitrile | COC1=C(OCCCCCOC2=CC=C(C#N)C=C2)C=CC=C1 | C19H21NO3
